US05756743
Ethyl 4-(3-chloropropyl)-4-cyano-1-piperidinecarboxylate
To a solution of ethyl 4-cyano-1-piperidinecarboxylate (6.0 g) in tetrahydrofuran (120 ml) at -70° C., under nitrogen, was added a solution of lithium diisopropylamide (4.6 g) in tetrahydrofuran (21.5 ml), dropwise, with stirring. The reaction was allowed to warm to -10° C. and after 30 min was recooled to -70° C. A solution of 1-chloro-3-iodopropane (7.4 g) in tetrahydrofuran (20 ml) was added to the mixture over 30 min. The reaction mixture was quenched with water and allowed to warm to ambient temperature. The mixture was extracted with ethyl acetate. The extracts were washed with water, saturated sodium chloride solution, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was flash chromatographed (silica), eluting with 2:1 heptane/ethyl acetate. The appropriate fractions were collected and concentrated to afford 5.5 g (64%) of product.

reactant | ethyl 4-cyano-1-piperidinecarboxylate | 6.0 g | C(#N)C1CCN(CC1)C(=O)OCC | C9H14N2O2
reactant | lithium diisopropylamide | 4.6 g | C(C)(C)[N-]C(C)C.[Li+]
reactant | 1-chloro-3-iodopropane | 7.4 g | ClCCCI | C3H6ClI
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 21.5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl 4-(3-chloropropyl)-4-cyano-1-piperidinecarboxylate | 5.5 g, 64% | ClCCCC1(CCN(CC1)C(=O)OCC)C#N | C12H19ClN2O2
